US08008298B2
7-Iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine 0.057 gm, 0.1 mM was placed in an oven dried flask and 1 ml anhydrous THF was added. The flask was chilled in an Acetone-dry ice slurry and evacuated and refilled 3 times with nitrogen. Via syringe 0.061 ml of 2.13M Buli in hexane solution (0.13 mM, 1.3 eq) was added and the now yellow mixture was stirred for 30 seconds then 3-(Methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester, 0.052 gm, 0.2 mM, 2 eq.) in a minimal amount of THF was added by syringe. The mixture was stirred for 30 minutes, removed from the dry ice-acetone bath and immediately quenched with a saturated aqueous ammonium chloride solution. The mixture was extracted two times with ethyl acetate and the organic extracts dried over magnesium sulfate. After filtering and concentrating, the oil was redissolved in THF and 0.2 ml of 1M Tetrabutylammonium Fluoride in THF added. After 5 minutes the mixture was concentrated and purified on a preparative thin-layer chromatography plate (Ethylacetate/hexane) to give 3-[2-(3,4,5-Trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbonyl]-pyrrolidine-1-carboxylic acid tert-butyl ester. The 3-[2-(3,4,5-Trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbonyl]-pyrrolidine-1-carboxylic acid tert-butyl ester was dissolved in 3 ml of dichloromethane and 0.4 ml trifluoroacetic acid was added and stirred overnight. The solution was concentrated and the solid dried overnight at 2 torr in a 60° C. vacuum oven to give 0.012 gm of Pyrrolidin-3-yl-[2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazin-7-yl]-methanone trifluoroacetate salt. (M+H)+=383.

reactant | 7-Iodo-5-triisopropylsilanyl-2-(3,4,5-trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.1 mM, 0.057 gm | IC1=CN(C2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC)[Si](C(C)C)(C(C)C)C(C)C | C24H34IN3O3Si
reactant | hexane | 0.13 mM, 1.3 eq | CCCCCC | C6H14
reactant | 3-(Methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C(N(C)OC)=O | C12H22N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 3-[2-(3,4,5-Trimethoxy-phenyl)-5H-pyrrolo[2,3-b]pyrazine-7-carbonyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C(=O)C1=CNC2=NC=C(N=C21)C2=CC(=C(C(=C2)OC)OC)OC | C25H30N4O6
